US05571311
A solution of 43 g of sulfanilic acid in 2 L of water at about 75° C. was added to 202 g of a carbon black having a surface area of 230 m2 /g and a DBPA of 70 ml/100 g with stirring. The stirring mixture was allowed to cool to room temperature, and 26.2 g of concentrated nitric acid was added. A solution of 20.5 g of NaNO2 in water was added. 4-Sulfobenzenediazonium hydroxide inner salt is formed, which reacts with the carbon black. The dispersion was stirred until the resulting bubbling stopped. After drying at 70° C., the product was washed with methanol and dried in an oven at 90° C. The product has attached p--C6H4SO3- groups.

reactant | sulfanilic acid | 43 g | S(=O)(C1=CC=C(C=C1)N)(=O)O | C6H7NO3S
reactant | carbon black | 202 g | C | CH4
reactant | DBPA | C1=C(NC(=C1Br)Br)C(=O)O | C5H3Br2NO2
reactant | nitric acid | 26.2 g | [N+](=O)(O)[O-] | HNO3
reactant | NaNO2 | 20.5 g | N(=O)[O-].[Na+]
solvent | water | 2 L | O | H2O
product | 4-Sulfobenzenediazonium hydroxide | [OH-].S(=O)(=O)(O)C1=CC=C(C=C1)[N+]#N | InChI=1S/C6H4N2O3S.H2O/c7-8-5-1-3-6(4-2-5)12(9,10)11;/h1-4H;1H2
